US07560551B2
In a 250 mL round bottom flask was dissolved (2-chloropyridin-3-yl)methanol (6.7 g, 47 mmol) in CH2Cl2 (100 mL). The reaction was cooled to 0° C., to which was slowly added tribromophosphine (4.8 mL, 51 mmol), and allowed to warm to RT overnight. The reaction was quenched by addition of ice, extracted into CH2Cl2, washed 1×NaHCO3, 2×H2O, dried with Mg2SO4, filtered through fritted funnel and filtrate was concentrated. The crude was purified by silica gel chromatography eluting with 15-45% EtOAc/Hex. The product fraction were concentrated down to yield 3-(bromomethyl)-2-chloropyridine as off-white solid. MS m/z=206, 208 [M+1]+. Calc'd for C6H5BrClN: 206.47.

reactant | (2-chloropyridin-3-yl)methanol | 47 mmol, 6.7 g | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | tribromophosphine | 51 mmol, 4.8 mL | BrP(Br)Br | Br3P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(bromomethyl)-2-chloropyridine | BrCC=1C(=NC=CC1)Cl | C6H5BrClN
